US07732626B2
4-bromo-2,3,5,6-tetramethylphenol
To a suspension of 2,3,5,6-tetramethylphenol (5.10 g, 34.0 mmol) in acetic acid (90 ml) was added dropwise a solution of bromine (1.98 mL, 38.6 mmol) in acetic acid (30 mL) at room temperature, and the mixture was stirred for 5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate, and washed successively with aqueous sodium thiosulfate solution and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The precipitated crystals were washed with petroleum ether to give the title compound (5.10 g, yield 66%) as pale-yellow crystals. The mother solution was concentrated under reduced pressure, and washed with petroleum ether to give second crop (1.38 g, yield 18%).

reactant | 2,3,5,6-tetramethylphenol | 34.0 mmol, 5.10 g | CC1=C(C(=C(C=C1C)C)C)O | C10H14O
reactant | bromine | 38.6 mmol, 1.98 mL | BrBr | Br2
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-2,3,5,6-tetramethylphenol | 5.10 g, yield 66% | BrC1=C(C(=C(C(=C1C)C)O)C)C | C10H13BrO
